US06703405B2
1-[4-(6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-3-ethylurea, Hydrochloride;
500 mg (1.63 mmol) of 4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenylamine were introduced into 20 ml of toluene, and a solution of 284 mg (4.0 mmol) of ethyl isocyanate in a little toluene is added dropwise. After one hour at 80° C., a further 180 mg of ethyl isocyanate are added, and the mixture was stirred at 80° C. for one hour. For workup, the solvent was removed and the residue was triturated with H2O and ethyl acetate, filtered off with suction and dried, resulting in the title compound as a pale yellowish solid (m.p.: 218-220° C.). The ethylurea obtained in this way was converted into the corresponding hydrochloride in a manner known to the skilled worker.

reactant | 4-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenylamine | 1.63 mmol, 500 mg | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C1=CC=C(C=C1)N | C16H16Cl2N2
reactant | ethyl isocyanate | 4.0 mmol, 284 mg | C(C)N=C=O | C3H5NO
reactant | ethyl isocyanate | 180 mg | C(C)N=C=O | C3H5NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[4-(6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-3-ethylurea, Hydrochloride | Cl.ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C1=CC=C(C=C1)NC(=O)NCC | InChI=1S/C19H21Cl2N3O.ClH/c1-3-22-19(25)23-14-6-4-12(5-7-14)16-10-24(2)11-17-15(16)8-13(20)9-18(17)21;/h4-9,16H,3,10-11H2,1-2H3,(H2,22,23,25);1H
